US04898949
1-(4-Fluorophenyl)-2-(1-methyl-1H-tetrazol-5-yl)-1-phenylethanol
A solution of 1,5-dimethyltetrazole (29.25 g; 0.298 mole) in dry THF (400 mL) was cooled to -78° C. and treated with n-butyllithium (133 mL of a 2.5M solution in hexane; 0.3325 mole) over 30 minutes. The mixture was stirred at -78° C. for 30 minutes and treated with 4-fluorobenzophenone (50 g; 0.25 mole). The mixture was stirred at -78° C. for 30 minutes and allowed to warm up to 23° C. over 2 hours. The reaction was quenched with 2N HCl (100 mL) and the organic solvent was removed by evaporation. The residue was extracted with CHCl3 (2×100 mL) and the combined organic layers were dried (Na2SO4) and evaporated to afford a brown oil. Purification by chromatography using 20% EtOAc-hexane as eluent afforded the title compound as a white solid (46.3 g; 62%). m.p.=113°- 114° C. (crystallized from EtOAc-hexane). MS (CI): m/e=299 for (M+H)+.

reactant | 1,5-dimethyltetrazole | 0.298 mole, 29.25 g | CN1N=NN=C1C | C3H6N4
reactant | n-butyllithium | C(CCC)[Li]
reactant | 4-fluorobenzophenone | 0.25 mole, 50 g | FC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C13H9FO
solvent | THF | 400 mL | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 1-(4-Fluorophenyl)-2-(1-methyl-1H-tetrazol-5-yl)-1-phenylethanol | 46.3 g, 62% | FC1=CC=C(C=C1)C(CC1=NN=NN1C)(O)C1=CC=CC=C1 | C16H15FN4O
